US07169789B2
N-Acetyl-N-{2-chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}-N′-propylurea
N-{2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-phenyl}-N′-propylurea 100 mg) was dissolved in anhydrous tetrahydrofuran (30 ml), and sodium hydride (60 wt %, 88 mg) was added to the solution. The mixture was stirred at room temperature for 15 min. Next, acetyl chloride (63 μl) was added to the reaction solution, and the mixture was stirred at room temperature for additional 2 hr. The solvent was removed by distillation under the reduced pressure, and water was added to the residue. The mixture was extracted with chloroform. The chloroform layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by HPLC by development with chloroform/acetone to give 27 mg (yield 26%) of the title compound.

reactant | N-{2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-phenyl}-N′-propylurea | 100 mg | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC)NC(=O)NCCC | C20H21ClN4O4
reactant | sodium hydride | 88 mg | [H-].[Na+]
reactant | acetyl chloride | 63 μl | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-Acetyl-N-{2-chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}-N′-propylurea | 27 mg, yield 26% | C(C)(=O)N(C(=O)NCCC)C1=C(C=C(C=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC)Cl | C22H23ClN4O5
